US05274116
N-(2-Acetyl-1H-pyrrol-1-yl)-2-aminoacetamide Hydrochloride
To a stirred solution consisting of 1,1-dimethylethyl-[2-[(2-acetyl-1H-pyrrol-1-yl)amino]-2-oxoethyl]carbamate (5.90 g) in ethyl acetate (45 ml) and isopropanol (35 ml) was added ethereal HCl (1.7M, excess). The resulting suspension was gently heated until the reaction mixture was homogeneous. After stirring for 24 hours at room temperature, the reaction appeared complete by TLC (silica gel, 50% EtOAc/hexane). The solid product was collected by filtration under nitrogen and recrystallized from methanol/ether to afford 3.30 g of the product, m.p. 179°-182° C.

reactant | 1,1-dimethylethyl-[2-[(2-acetyl-1H-pyrrol-1-yl)amino]-2-oxoethyl]carbamate | 5.90 g | CC(C)(C)N(C([O-])=O)CC(=O)NN1C(=CC=C1)C(C)=O
reactant | HCl | 1.7M | Cl | ClH
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | ethyl acetate | 45 ml | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | 35 ml | C(C)(C)O | C3H8O
product | N-(2-Acetyl-1H-pyrrol-1-yl)-2-aminoacetamide Hydrochloride | 3.30 g | Cl.C(C)(=O)C=1N(C=CC1)NC(CN)=O | InChI=1S/C8H11N3O2.ClH/c1-6(12)7-3-2-4-11(7)10-8(13)5-9;/h2-4H,5,9H2,1H3,(H,10,13);1H
